US09216999B2
tert-Butyl 3-oxoazetidine-1-carboxylate
tert-Butyl 3-hydroxyazetidine-1-carboxylate (4.02 g, 23.2 mmol) in dichloromethane (305 mL) was mixed with Dess-Martin Periodinane (9.55 g, 22.5 mmol) under cooling with ice and then stirred at room temperature for 3 hours. After addition of 10% aqueous sodium thiosulfate and saturated aqueous sodium hydrogen carbonate under cooling with ice, the reaction mixture was extracted with chloroform, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1 (v/v)) to give the title compound as a colorless solid (3.39 g, yield 85%).

reactant | tert-Butyl 3-hydroxyazetidine-1-carboxylate | 23.2 mmol, 4.02 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
reactant | Dess-Martin Periodinane | 22.5 mmol, 9.55 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 305 mL | ClCCl | CH2Cl2
product | tert-Butyl 3-oxoazetidine-1-carboxylate | 3.39 g, yield 85% | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
